US06355617B1
HOBT (7.7 g), N-methylmorpholine (6.6 g), L-alanine methyl ester hydrochloride (4.5 g) and 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide (5.7 g) was added to (RS)-2-allyl-N-(benzyloxycarbonyl)proline (6.5 g) in DMF (30 ml) and the mixture was stirred for 18 hours and then evaporated. The residue was partitioned between ether and water, filtered to remove HOBt and the organic layer separated. The organic layer was evaporated and the residue was purified by chromatography on silica using a gradient of 20% ethyl acetate in hexane increasing to 50% ethyl acetate in hexane. The appropriate fractions were combined and evaporated to dryness to give [(RS)-2-allyl-N-(benzyloxycarbonyl)prolyl]-(S)-alanine methyl ester (7 g); NMR (d6-DMSO (373K)): some doubling of peaks due to the mixture of diastereoisomers, 1.25 and 1.3 (2d, 3H), 1.75 (m, 2H), 2.2 (m,2H), 2.65 (m, 1H), 2.9 (m, 1H), 3.4 (m, 1H), 3.65 (2s, 3H), 3.7 (m, 1H), 4.3 (2q, 1H), 5.0 (m, 4H), 5.7 (m,1H), 7.3 (m, 5H), 7.4 and 7.5 (bs, 1H).

reactant | HOBT | 7.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 6.6 g | CN1CCOCC1 | C5H11NO
reactant | L-alanine methyl ester hydrochloride | 4.5 g | Cl.COC([C@@H](N)C)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide | 5.7 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | (RS)-2-allyl-N-(benzyloxycarbonyl)proline | 6.5 g | C(C=C)C1(N(CCC1)C(=O)OCC1=CC=CC=C1)C(=O)O | C16H19NO4
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | [(RS)-2-allyl-N-(benzyloxycarbonyl)prolyl]-(S)-alanine methyl ester | 7 g | COC([C@@H](NC(C1(N(CCC1)C(=O)OCC1=CC=CC=C1)CC=C)=O)C)=O | C20H26N2O5
